US06627651B1
Into a solution of 2-amino-4-(4-methylphenyl)benzaldehyde (0.23 g) and pyruvic acid (192 mg) in methanol (20 ml) was added a solution of sodium hydroxide (349 mg)/methanol (20 ml), and the resulting mixture was stirred at 50-60° C. for 9 hours and was then concentrated. The concentrate was extracted with water, and the aqueous layer was washed twice with diethyl ether and was then mixed with 1 N hydrochloric acid to adjust the pH to 1-2. The resulting mixture was extracted with ethyl acetate, and the extract was washed with an aqueous solution of sodium chloride. The extract was dried (anhydrous magnesium sulfate) and was then concentrated. The residue was subjected to purification using silica gel column chromatography (ethyl acetate/methanol=4/1) to obtain 4-(4-methylphenyl)quinoline-2-carboxylic acid (117 mg) as an orange powder.

reactant | 2-amino-4-(4-methylphenyl)benzaldehyde | 0.23 g | NC1=C(C=O)C=CC(=C1)C1=CC=C(C=C1)C | C14H13NO
reactant | pyruvic acid | 192 mg | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | 349 mg | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | methanol | 20 ml | CO | CH4O
product | 4-(4-methylphenyl)quinoline-2-carboxylic acid | 117 mg | CC1=CC=C(C=C1)C1=CC(=NC2=CC=CC=C12)C(=O)O | C17H13NO2
